US07601716B2
{4-[1-(2,5-Dichlorobenzyl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl]phenyl}-(4-methylpiperazin-1-yl)methanone
1-(2,5-dichlorobenzyl)-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine (100 mg) was reacted with (4-methylpiperazin-1-yl)-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]methanone as in General Procedure 4A to give the title compound as a pale yellow foam (49% yield). M.p. (foam), LCMS: m/z=498.07 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 2.31 (s, 3H), 2.32-2.50 (m, 4H), 3.44-3.51 (m, 2H), 3.45-3.84 (m, 4H), 3.63-3.68 (m, 2H), 4.49 (s, 2H), 5.21 (s, 1H), 6.62 (d, J=1.5 Hz, 1H), 7.18-7.21 (m, 1H), 7.24-7.29 (m, 1H), 7.34 (d, J=8.6 Hz, 1H), 7.39-7.42 (m, 4H), 7.72 (d, J=1.8 Hz, 1H).

reactant | 1-(2,5-dichlorobenzyl)-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 100 mg | ClC1=C(CN2C3=C(NCC2)N=CC(=C3)I)C=C(C=C1)Cl | C14H12Cl2IN3
reactant | (4-methylpiperazin-1-yl)-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]methanone | CN1CCN(CC1)C(=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H27BN2O3
product | {4-[1-(2,5-Dichlorobenzyl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl]phenyl}-(4-methylpiperazin-1-yl)methanone | 49% yield | ClC1=C(CN2C3=C(NCC2)N=CC(=C3)C3=CC=C(C=C3)C(=O)N3CCN(CC3)C)C=C(C=C1)Cl | C26H27Cl2N5O
